US04113729
To a solution of 3.7 g (0.011 mol) of (-)-3-phenoxy-N-methylmorphinan in 50 ml of toluene, 5.8 g of cyclopropane carboxylic acid chloride in 25 ml of toluene was added dropwise at 5°. The mixture was allowed to warm to room temperature and was then refluxed for 15 hours. The solvent was removed in vacuo and the residue partitioned between ether and dilute hydrochloric acid. The ether solution was washed with water and dried. Removal of the solvent in vacuo afforded 4.2 g (99%) of (-)-3-phenoxy-N-cyclopropylcarbonylmorphinan. For analysis, a sample of this compound was distilled, bp 230°-240°/0.05mmHg, [α]25D -173.45° (c 0.99, MeOH).

reactant | (-)-3-phenoxy-N-methylmorphinan | 0.011 mol, 3.7 g | O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C | C23H27NO
reactant | cyclopropane carboxylic acid chloride | 5.8 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | (-)-3-phenoxy-N-cyclopropylcarbonylmorphinan | 4.2 g, 99% | O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C(=O)C3CC3 | C26H29NO2
